US07754880B2
Preparation of methyl (2E)-4-(2-chloro-4-fluoro-5-isocyanatophenoxy)-3-methoxybut-2-enoate (Intermediate having formula II)
Trichloromethyl chloroformate (1.37 g) is added dropwise to a solution of methyl (2E)-4-(5-amino-2-chloro-4-fluorophenoxy)-3-methoxybut-2-enoate (2.0 g) in ethyl acetate (30 ml). The mixture is stirred overnight at room temperature. It is concentrated under vacuum and the residue obtained (2.3 g) is used as such in the subsequent reaction.

reactant | Trichloromethyl chloroformate | 1.37 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | methyl (2E)-4-(5-amino-2-chloro-4-fluorophenoxy)-3-methoxybut-2-enoate | 2.0 g | NC=1C(=CC(=C(OC\C(=C/C(=O)OC)\OC)C1)Cl)F | C12H13ClFNO4
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | methyl (2E)-4-(2-chloro-4-fluoro-5-isocyanatophenoxy)-3-methoxybut-2-enoate | ClC1=C(OC\C(=C/C(=O)OC)\OC)C=C(C(=C1)F)N=C=O | C13H11ClFNO5
